US09260408B2
A mixture of 6-bromo-3-nitro-2-(toluene-4-sulfonylmethyl)-pyridine (3.3 g, 9.0 mmol), bromo-acetic acid methyl ester (2.1 mL, 22.5 mmol) and K2CO3 (8.4 g, 60.8 mmol) were suspended in DMF (18.0 mL) and stirred at 40° C. for 1 hour before pouring into water (50 mL). After extraction with EtOAc, the organic layer was washed with brine, dried over anhy. Na2SO4, filtered and concentrated in vacuo to give 3-(6-bromo-3-nitro-pyridin-2-yl)-3-(toluene-4-sulfonyl)-propionic acid methyl ester (3.9 g, quant.) as a light yellow solid. MS: 443.1 & 445.1 (M+H+).

reactant | 6-bromo-3-nitro-2-(toluene-4-sulfonylmethyl)-pyridine | 9.0 mmol, 3.3 g | BrC1=CC=C(C(=N1)CS(=O)(=O)C1=CC=C(C=C1)C)[N+](=O)[O-] | C13H11BrN2O4S
reactant | bromo-acetic acid methyl ester | 22.5 mmol, 2.1 mL | COC(CBr)=O | C3H5BrO2
reactant | K2CO3 | 60.8 mmol, 8.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 18.0 mL | CN(C)C=O | C3H7NO
product | 3-(6-bromo-3-nitro-pyridin-2-yl)-3-(toluene-4-sulfonyl)-propionic acid methyl ester | 3.9 g | COC(CC(S(=O)(=O)C1=CC=C(C=C1)C)C1=NC(=CC=C1[N+](=O)[O-])Br)=O | C16H15BrN2O6S
